US06365736B1
6-Formyl-2-methyl-2H-1,4-benzoxazin-3-one
28.8 g of pulverized iron is added in portions to 34 g of 2-(4-(1,3-dioxolan-2-yl)-2-nitrophenoxy)propionic acid ethyl ester in 360 ml of glacial acetic acid with 80 ml of water while being cooled in an ice bath. The mixture is hot. After 2 hours, it is poured onto 1 l of water, extracted with ethyl acetate, and the organic phase is washed with brine. It is dried with magnesium sulfate and concentrated by evaporation. 20.3 g of brownish solid results.

reactant | 2-(4-(1,3-dioxolan-2-yl)-2-nitrophenoxy)propionic acid ethyl ester | 34 g | C(C)OC(C(C)OC1=C(C=C(C=C1)C1OCCO1)[N+](=O)[O-])=O | C14H17NO7
reactant | water | 80 ml | O | H2O
reactant | water | 1 l | O | H2O
solvent | acetic acid | 360 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 28.8 g | [Fe] | Fe
product | 6-Formyl-2-methyl-2H-1,4-benzoxazin-3-one | 20.3 g | C(=O)C=1C=CC2=C(NC(C(O2)C)=O)C1 | C10H9NO3
